US04980464
In 2 ml of acetonitrile was suspended 103 mg of 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4 -carboxylic acid. To the suspension were added in sequence 0.10 ml of pyridine, 0.21 ml of triethyl phosphite and 0.2 ml of acetic acid. The mixture was stirred at 20 to 25° C. for 8 hours, followed by concentration under reduced pressure. To the concentrated solution was added 10 ml of tetrahydrofuran, then precipitating powdery product was collected by filtration, followed by concentration under reduced pressure to give 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-(1 -pyridinio)methyl-3-cephem-4-carboxylate.

reactant | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-hydroxymethyl-3-cephem-4 -carboxylic acid | 103 mg | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)CO)C(=O)O)C1=O)=N/OC | C14H15N5O6S2
reactant | pyridine | 0.10 ml | N1=CC=CC=C1 | C5H5N
reactant | triethyl phosphite | 0.21 ml | P(OCC)(OCC)OCC | C6H15O3P
reactant | acetic acid | 0.2 ml | C(C)(=O)O | C2H4O2
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 7β-[2-(2-aminothiazol-4-yl)-2-(Z)-methoxyiminoacetamido]-3-(1 -pyridinio)methyl-3-cephem-4-carboxylate | NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)C[N+]2=CC=CC=C2)C(=O)[O-])C1=O)=N/OC | C19H18N6O5S2
